US04699926
A mixture of 2-(2,3-dichloro-4-butyrylphenoxy)-2-methylpropionic acid (10 g, 0.031 mole), dimethylamine hydrochloride (15 g, 0.18 mole), paraformaldehyde (3 g, 0.10 equiv.) and acetic acid (0.6 ml) was stirred and heated on a steam bath for two hours. N,N-dimethylformamide (30 ml) was added and stirring and heating was continued for another two hours. The mixture was poured into ice water which was then extracted with ether. The ether extract was washed with water, then brine and finally dried over MgS4. The ether was evaporated in vacuo and the residue recrystallized from cyclohexane to give 6.3 g 2-[2,3-dichloro-4-(2-methylenebutyryl)phenoxy]-2-methylpropionic acid, m.p. 88°-89° C.

reactant | 2-(2,3-dichloro-4-butyrylphenoxy)-2-methylpropionic acid | 0.031 mole, 10 g | ClC1=C(OC(C(=O)O)(C)C)C=CC(=C1Cl)C(CCC)=O | C14H16Cl2O4
reactant | dimethylamine hydrochloride | 0.18 mole, 15 g | Cl.CNC
reactant | paraformaldehyde | 3 g, 0.10 equiv. | C=O | CH2O
reactant | acetic acid | 0.6 ml | C(C)(=O)O | C2H4O2
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2-[2,3-dichloro-4-(2-methylenebutyryl)phenoxy]-2-methylpropionic acid | 6.3 g | ClC1=C(OC(C(=O)O)(C)C)C=CC(=C1Cl)C(C(CC)=C)=O | C15H16Cl2O4
